US06635633B2
C. 4-(6-Morpholin-4-yl-1H-pyrrolo[3,2-c]pyridin-3-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
6-Morpholin-4-yl-1H-pyrrolo[3,2-c]pyridine (197 mg, 0.97 mmol), 4-oxo-piperidine-1-carboxylic acid tert-butyl ester (387 mg, 1.94 mmol) and potassium hydroxide (218 mg, 3.88 mmol) were added in MeOH (10 mL) and heated to reflux for 16 h. The reaction mixture was then cooled to room temperature and poured into ice water (50 mL). The mixture was extracted with 10% MeOH/CH2Cl2 (5×20 mL). The organic extracts was dried over Na2SO4 and concentrated. The residue was purified by column chromatography (silica, 0-5% MeOH/CH2Cl2) to obtain 337 mg (91%) of the desired product. TLC (silica, 5% MeOH/CH2Cl2): Rf=0.50. MS (electrospray): exact mass calculated for C21H28N4O3, 384.22; m/z found, 749.3 [M++H]. 1H NMR (CDCl3, 400 MHz): 9.24 (brs, 1H), 8.77 (s, 1H), 6.95 (d, J=2.15 Hz, 1H), 6.45 (s, 1H), 6.09 (brs, 1H), 4.09-4.04 (m, 2H), 3.66 (t, J=6.06 Hz, 4H), 3.60 (t, J=5.28 Hz, 2H), 3.25 (t, J=5.09 Hz, 4H), 2.38 (d, J=6.26 Hz, 2H), 1.44 (s, 9H).

reactant | 6-Morpholin-4-yl-1H-pyrrolo[3,2-c]pyridine | 0.97 mmol, 197 mg | N1(CCOCC1)C1=CC2=C(C=N1)C=CN2 | C11H13N3O
reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 1.94 mmol, 387 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | potassium hydroxide | 3.88 mmol, 218 mg | [OH-].[K+]
solvent | MeOH | 10 mL | CO | CH4O
product | 4-(6-Morpholin-4-yl-1H-pyrrolo[3,2-c]pyridin-3-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 337 mg, 91% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CNC2=C1C=NC(=C2)N2CCOCC2 | C21H28N4O3
